US04778932
A 158 g (1.0 mole) quantity of benzenesulfonic acid, 94 g (1.2 moles) of benzene and 5 g of 12-tungstophosphoric acid (H3PW12O40.29H2O) were refluxed with heating and stirring to undergo reaction for 30 minutes. The reaction mixture was analyzed by highperformance liquid chromatography, which showed that the conversion of benzenesulfonic acid was 30%. To the reaction mixture was added the same amount (10 g) of polyphosphoric acid as in Example 15. The mixture was refluxed for 5.5 hours. The same treatment as in Example 15 was followed, giving 87 g of diphenylsulfone in a yield of 40%.

reactant | benzenesulfonic acid | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
reactant | benzene | 1.2 moles, 94 g | C1=CC=CC=C1 | C6H6
product | diphenylsulfone | 87 g, yield of 40% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10O2S
